US04051148
A solution of 30 g 3-benzylmercapto-4-carbomethoxy benzyl alcohol in 900 ml of methylene chloride is stirred with 60 g of Florisil (activated magnesium silicate) in 900 ml of methylene chloride. To the thus-obtained slurry is added 39 g of solid pyridinium chlorochromate and the black reaction mixture obtained is stirred for 3-4 hours at room temperature, filtered over Celite (diatomaceous earth), and washed with 600 ml of methylene chloride. The methylene chloride filtrate is stirred overnight with a solution of 14 g of potassium hydroxide in 500 ml of water which removes all the dark color from the organic layer. The methylene chloride layer is separated, washed with 100 ml of 2N hydrochloric acid and then with 300 ml of water, dried over sodium sulfate and evaporated to dryness to yield 27.5 g of 3-benzylmercapto-4-carbomethoxy benzaldehyde having a melting point of 91°-93° C.

reactant | 3-benzylmercapto-4-carbomethoxy benzyl alcohol | 30 g | C(C1=CC=CC=C1)SC=1C=C(CO)C=CC1C(=O)OC | C16H16O3S
reactant | Florisil | 60 g | [O-][Si](=O)[O-].[Mg+2]
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
product | 3-benzylmercapto-4-carbomethoxy benzaldehyde | 27.5 g | C(C1=CC=CC=C1)SC=1C=C(C=O)C=CC1C(=O)OC | C16H14O3S
